US07649002B2
Methyl (3S,4R)-1-benzyl-4-(4-chlorophenyl)pyrrolidine-3-carboxylate
To a stirred solution of (4S)-4-benzyl-3-{[(3S,4R)-1-benzyl-4-(4-chlorophenyl)pyrrolidin-3-yl]carbonyl}-1,3-oxazolidin-2-one, from preparation 24 (2.51 g, 5.28 mmol) and dimethyl carbonate (2.22 mL, 26.4 mmol) in dichloromethane (40 mL) was added sodium methoxide (1.42 g, 26.4 mmol) at room temperature. The reaction mixture was stirred for 24 hours and diluted with dichloromethane (50 mL). The phases were separated and the organic phase was washed with water (2×40 mL), dried over magnesium sulfate and concentrated in vacuo. The crude residue was purified by column chromatography on silica gel using ethyl acetate:pentane (5:95-20:80) as eluent to afford the desired product as a colourless oil, 1.61 g (79%).

reactant | (4S)-4-benzyl-3-{[(3S,4R)-1-benzyl-4-(4-chlorophenyl)pyrrolidin-3-yl]carbonyl}-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(=O)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)CC1=CC=CC=C1 | C28H27ClN2O3
reactant | dimethyl carbonate | 26.4 mmol, 2.22 mL | C(OC)(OC)=O | C3H6O3
reactant | sodium methoxide | 26.4 mmol, 1.42 g | C[O-].[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Methyl (3S,4R)-1-benzyl-4-(4-chlorophenyl)pyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=C(C=C1)Cl)C(=O)OC | C19H20ClNO2
